US09061999B2
N-(2-chloro-5-(2-(piperidin-1-yl)ethoxy)phenyl)cinnamamide (436 mg, 1.1 mmol, 1 eq.) was placed in chlorobenzene (2.1 mL), in the presence of aluminium trichloride (906 mg, 1.5 mmol, 6 eq.). The reaction mixture was heated at 125° C. and stirred for 2 hours. After cooling down to room temperature, it was diluted with a water and ice mixture and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to afford 8-chloro-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one (225 mg, 67%).

reactant | N-(2-chloro-5-(2-(piperidin-1-yl)ethoxy)phenyl)cinnamamide | 1.1 mmol, 436 mg, 1 eq. | ClC1=C(C=C(C=C1)OCCN1CCCCC1)NC(C=CC1=CC=CC=C1)=O | C22H25ClN2O2
reactant | aluminium trichloride | 1.5 mmol, 906 mg, 6 eq. | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | chlorobenzene | 2.1 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | O | H2O
product | 8-chloro-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one | 225 mg, 67% | ClC=1C=CC(=C2C=CC(NC12)=O)OCCN1CCCCC1 | C16H19ClN2O2
